US06617326B2
a) 1,1-Dibromo-3-hydroxy-3-methylbutan-2-one
To a stirred solution of 3-methyl-3-hydroxy-2-butanone (40 g, 0.392 mol) in anhydrous dichloromethane (2.2 1) under nitrogen was added solid pyridinium tribromide (250.4 g, 0.784 mol) in portions and the mixture was stirred at room temperature for 14 h. The mixture was then washed with dilute aqueous sodium hydrogensulfite (500 ml), then saturated aqueous NaCl (500 ml), dried (Na2SO4), and evaporated in vacuo. The residue was purified by flash chromatography (silica gel, CH2Cl2) to afford 31.4 g (31%) of the title compound as a colourless oil: 1H NMR (360 MHz, CDCl3) δ 1.54 (6H, s), 2.45 (1H, br s), 6.62 (1H, s).

reactant | 3-methyl-3-hydroxy-2-butanone | 0.392 mol, 40 g | CC(C(C)=O)(C)O | C5H10O2
reactant | pyridinium tribromide | 0.784 mol, 250.4 g | [Br-].[Br-].[Br-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1,1-Dibromo-3-hydroxy-3-methylbutan-2-one | 31.4 g, 31% | BrC(C(C(C)(C)O)=O)Br | C5H8Br2O2
